US06890940B2
N,N-Bis[N-[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-N-methyl-2-aminoethyl]methylamine trihydrochloride.
To a solution of N,N-bis[N-[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-N-methyl-2-aminoethyl]methylamine (42.0 mg, 0.059 mmol) in ethanol (10 mL) was added 1.0 M hydrochloric acid (0.30 mL, 0.30 mmol), and the reaction mixture was concentrated under reduced pressure. Ethanol (10 mL) was added to the residue, and the mixture was concentrated under reduced pressure. The residue was recrystallized from ethanol-diethyl ether to yield the title compound as a yellow crystalline powder [melting point: 187.0° C. (decomposed)](37.1 mg, yield: 75%).

reactant | N,N-bis[N-[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-N-methyl-2-aminoethyl]methylamine | 0.059 mmol, 42.0 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=C(C=C1)N(CCN(CCN(C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC)C)C)C | C35H45N5O6
reactant | hydrochloric acid | 0.30 mmol, 1.0 M, 0.30 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N,N-Bis[N-[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-N-methyl-2-aminoethyl]methylamine trihydrochloride | 37.1 mg, yield: 75% | Cl.Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=NC=C(C=C1)N(CCN(CCN(C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC)C)C)C | InChI=1S/C35H45N5O6.3ClH/c1-38(14-16-39(2)26-10-12-28(36-22-26)24-18-30(41-4)34(45-8)31(19-24)42-5)15-17-40(3)27-11-13-29(37-23-27)25-20-32(43-6)35(46-9)33(21-25)44-7;;;/h10-13,18-23H,14-17H2,1-9H3;3*1H
